US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 1, using 2.16 g (9.99 mmol) of 4-amino-1-benzyl-5-imidazolecarboxamide which was prepared in the same manner as in Reference Example 2 and 3-fluorobenzoyl chloride, instead of benzoyl chloride, to obtain 2.63 g of 1-benzyl-4-(3-fluorobenzoylamino)-5-imidazolecarboxamide (yield 78%).

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 9.99 mmol, 2.16 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | 3-fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-benzyl-4-(3-fluorobenzoylamino)-5-imidazolecarboxamide | 2.63 g, yield 78% | C(C1=CC=CC=C1)N1C=NC(=C1C(=O)N)NC(C1=CC(=CC=C1)F)=O | C18H15FN4O2
